Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aminobenzoic Acid (B Vit) / lisinopril
 
Attending: ___.
 
Chief Complaint:
Low O2 sat
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of baseline dementia, DM2, presenting from 
group home in ___ with shortness of breath and de 
saturation 86%. History is unclear as patient is unable to give 
a full history, but the report was found on morning rounds to be 
complaining of shortness of breath with oxygen desaturation to 
86% on room air. Recently got the flu shot 4 days ago. Had a 
low-grade temperature 100.4. Patient denies any chest pain or 
abdominal pain.
 
Past Medical History:
-Type 2 DM, on insulin
-HTN
-HL
-Obesity
-Multiple meningiomas
-History of hydrocephalus s/p ___ brain tumor ependymoma
 fourth ventricle patient was seen @ ___ where she presented
 with hydrocephalus and at the time was shunted and lost to f/u}
 ___ the tumor in her ___ ventricle was resected and she has
 been wheelchair bound since ___

 
Social History:
___
Family History:
noncontributory

 
Physical Exam:
ADMISSION EXAM:
VS: 98.0  139/88  109  16  94% 2L 
General: Alert, oriented, slow speech
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI
Neck: supple, JVP not elevated, no LAD  
Lungs: Rhonci at bases, no wheezes, loud upper airway secretions 
heard when patient coughs
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE EXAM:
PHYSICAL EXAM:  
VS: 98.4  140/68  84  18  93% 2L
BG: 210 this AM, 224 last night, 207 dinner, 254 lunch, 199 AM 
yesterday
General: Alert, oriented, slow speech
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI
Neck: supple, JVP not elevated, no LAD  
Lungs: Rhonci at bases, no wheezes, loud upper airway secretions 
heard when patient coughs
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
ADMISSION LABS:
___ 09:15AM BLOOD WBC-22.7*# RBC-4.64 Hgb-14.0 Hct-42.0 
MCV-91 MCH-30.2 MCHC-33.4 RDW-14.0 Plt ___
___ 09:15AM BLOOD Neuts-89.2* Lymphs-7.2* Monos-2.9 Eos-0.5 
Baso-0.2
___ 09:15AM BLOOD Glucose-186* UreaN-17 Creat-0.8 Na-141 
K-4.4 Cl-101 HCO3-32 AnGap-12

DISCHARGE LABS:

___ 05:45AM BLOOD WBC-9.0# RBC-4.17* Hgb-12.5 Hct-37.9 
MCV-91 MCH-29.9 MCHC-32.9 RDW-13.9 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-184* UreaN-13 Creat-0.6 Na-141 
K-3.8 Cl-104 HCO3-30 AnGap-11

BLOOD CULTURES PENDING

CXR:
FINDINGS:  The patient now presents with a frontal and lateral 
radiograph.  The lung volumes are low.  At the lung bases, there 
are extensive zones of atelectasis, in part due to elevation of 
the right hemidiaphragm.  As noted in the previous report, 
co-existing pneumonia in this location cannot be excluded.  
Larger effusions are not seen.  Mild cardiomegaly with mild 
pulmonary edema.  No pneumothorax. 

 
Brief Hospital Course:
HOSPITAL COURSE BY PROBLEM:

# PNEUMONIA: Low grade temperature at nursing home/assisted 
living and leukocytosis on admission. Afebrile throughout this 
admission. Patient experienced O2 requirement ___ to maintain 
saturations 95-97%. Her room air saturations on this admission 
were 83% (admission) 86% (discharge). Chest XR concerning for 
bilateral lower lobe atelectasis versus consolidation (see 
reports section for read). Patient had bilat LL rhonci on exam. 
We treated for community vs. healthcare associated pneumonia 
with levofloxacin with improvement in temperature and 
normalization of WBC. Patient remains on oxygen at time of 
discharge, but is improving. Her UA is not convincing for UTI, 
and therefore not considered as a source of her fevers and 
leukocytosis.  
  
# DM:  held metformin, contined home lantus 40 units qhs and 
started HISS

# HTN:  continued on home metoprolol

# HL:  continued on home simvastatin

# GERD:  continued home omeprazole

# Depression:  continued home paroxetine 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. Simvastatin 40 mg PO DAILY 
3. traZODONE 25 mg PO HS:PRN sleep 
4. Glargine 40 Units Bedtime
Humalog 16 Units Breakfast
Humalog 6 Units Bedtime
5. Clonazepam 0.75 mg PO BID:PRN anxiety 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Paroxetine 40 mg PO DAILY 
9. Senna 1 TAB PO BID:PRN constipation 
10. Lorazepam 1 mg PO BID:PRN anxiety 
11. Acetaminophen 325-650 mg PO Q6H:PRN pain 
Do not exceed 3g per day 
12. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
Do not exceed 3g per day 
2. Clonazepam 0.75 mg PO BID:PRN anxiety 
3. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID 
4. Lorazepam 1 mg PO BID:PRN anxiety 
5. Metoprolol Tartrate 12.5 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Paroxetine 40 mg PO DAILY 
9. Senna 1 TAB PO BID:PRN constipation 
10. Simvastatin 40 mg PO DAILY 
11. traZODONE 25 mg PO HS:PRN sleep 
12. Glargine 40 Units Bedtime
Humalog 16 Units Breakfast
Humalog 6 Units Bedtime
13. Levofloxacin 750 mg PO DAILY Duration: 5 Days 
last dose ___ 
14. Oxygen
Please maintain O2 sat >95% with O2 via NC PRN until pneumonia 
resolves

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for shortness of breath and you were 
found to have pneumonia. For this, you were treated with 
antibiotics. You will continue to take antibiotics when you go 
home.
 
Followup Instructions:
___